US05021581
N-Bromosuccinimide (10.7 g) and azodiisobutyronitrile (catalytic) were added to a solution of methyl 2-ethylbenzoate (10 g) in carbon tetrachloride (50 ml), and the resulting mixture was heated at 80° C. for 6 hours under reflux. After cooling, the reaction mixture was filtered and the filtrate was concentrated to give methyl 2-(1-bromoethyl)benzoate (12 g), almost pure by GC and NMR, as a yellow oil.

reactant | N-Bromosuccinimide | 10.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azodiisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | methyl 2-ethylbenzoate | 10 g | C(C)C1=C(C(=O)OC)C=CC=C1 | C10H12O2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-(1-bromoethyl)benzoate | 12 g | BrC(C)C1=C(C(=O)OC)C=CC=C1 | C10H11BrO2
